US07601702B2
5-(Tritylamino)-pentan-1-ol (45)
The title compound (24%) was prepared as described in example 41 but using 5-aminopentanol instead of cis-2-buten-1,4-diol in the reaction with trityl chloride.

reactant | 5-aminopentanol | NCCCCCO | C5H13NO
reactant | trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
product | 5-(Tritylamino)-pentan-1-ol | 24% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCCO | C24H27NO
